US09278951B2
Synthesis of 1-decyl-3-(2-ethyl-2-naphthyl)-4,5-dichloroimidazolium bromide
4,5-Dichloroimidazole (1.23 g, 9 mmol) will be dissolved into acetonitrile. Potassium hydroxide (0.61 g, 9.9 mmol) will be added and the mixture will be allowed to stir for 0.5 h. 1-bromethane (9 mmol) will be added and the solution will be allowed to reflux overnight. The solution will be filtered hot to remove a white precipitate (presumed to be KBr) and 2-(2-bromoethyl)naphthalene (9 mmol) will be added and the mixture will be returned to reflux overnight. The mixture will be allowed to cool to room temperature, and the volatiles will be removed en vacuo resulting in the product.

reactant | 4,5-Dichloroimidazole | 9 mmol, 1.23 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | Potassium hydroxide | 9.9 mmol, 0.61 g | [OH-].[K+]
reactant | 1-bromethane | 9 mmol | BrCC | C2H5Br
reactant | KBr | [K+].[Br-]
reactant | 2-(2-bromoethyl)naphthalene | 9 mmol | BrCCC1=CC2=CC=CC=C2C=C1 | C12H11Br
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-decyl-3-(2-ethyl-2-naphthyl)-4,5-dichloroimidazolium bromide | [Br-].C(CCCCCCCCC)[N+]1=CN(C(=C1Cl)Cl)C1(CC2=CC=CC=C2C=C1)CC | InChI=1S/C25H35Cl2N2.BrH/c1-3-5-6-7-8-9-10-13-18-28-20-29(24(27)23(28)26)25(4-2)17-16-21-14-11-12-15-22(21)19-25;/h11-12,14-17,20H,3-10,13,18-19H2,1-2H3;1H/q+1;/p-1
